US07056917B2
(A) N8-(4-Isopropyl-1,3-thiazol-2-yl)-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5yl]-4-oxo-4H-pyrido[1,2-a]pyrimidine-8-carboxamide
3-[2-(4-Methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4-oxo-4H-pyrido[1,2-a]-pyrimidine-8-carboxylic acid (250 mg, 0.66 mmol) was dissolved in dimethylformamide (6 ml), added with N,N-carbonylbis-1H-imidazole (abbreviated as “CDI” hereinafter, 160 mg, 0.991 mmol) and heated to 90° C. with stirring. After 1 hour and 30 minutes, the reaction solution was further added with CDI (170 mg), further stirred for 1 hour, and then further added with CDI (170 mg). The reaction solution was stirred further 2 hours, then returned to room temperature, added with 4-isopropyl-1,3-thiazol-2-amine hydrobromide (1.32 mmol) and stirred at room temperature for 2 hours and 30 minutes. The reaction solution was added with 2 N hydrochloric acid (7 ml), and the deposited crystals were collected by filtration and washed with water. The resulting yellow crystals were dissolved in chloroform and washed with saturated brine, and the collected organic layer was dried over magnesium sulfate and concentrated under reduced pressure to obtain the title compound as yellow crystals without purification.

reactant | 3-[2-(4-Methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4-oxo-4H-pyrido[1,2-a]-pyrimidine-8-carboxylic acid | 0.66 mmol, 250 mg | COC1=CC=C(CN2N=C(N=N2)C2=CN=C3N(C2=O)C=CC(=C3)C(=O)O)C=C1 | C18H14N6O4
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 170 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 170 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-isopropyl-1,3-thiazol-2-amine hydrobromide | 1.32 mmol | Br.C(C)(C)C=1N=C(SC1)N
reactant | hydrochloric acid | 2 N, 7 ml | Cl | ClH
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | N8-(4-Isopropyl-1,3-thiazol-2-yl)-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5yl]-4-oxo-4H-pyrido[1,2-a]pyrimidine-8-carboxamide | C(C)(C)C=1N=C(SC1)NC(=O)C1=CC=2N(C(C(=CN2)C=2N=NN(N2)CC2=CC=C(C=C2)OC)=O)C=C1 | C24H22N8O3S
